US05817850
1,1'-Bis[2,4,8,10-tetrakis(tert-butyl)-12H-dibenzo[d,g][1,3,2]dioxaphosphocin-6-yl]ferrocene
The general procedure of Example 1 is followed using 3.5 g (18.8 mmol) of ferrocene in 30 mL of hexane, 25 mL of a 1.6M hexane solution of n-butyl lithium, 4.5 g (38.7 mmol) of N,N,N',N'-tetramethylethylenediamine and 20 g (41 mmol) of 2,4,8,10-tetrakis(tert-butyl)-6-chloro-12H-dibenzo[d,g][1,3,2]dioxaphosphocin in 100 mL of tetrahydrofuran. The residue is triturated with hexane and the resultant solid is recrystallized from an acetonitrile/tetrahydrofuran mixture to give 12 g (58.5% yield) of a light brown solid.

reactant | ferrocene | 18.8 mmol, 3.5 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N,N,N',N'-tetramethylethylenediamine | 38.7 mmol, 4.5 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,4,8,10-tetrakis(tert-butyl)-6-chloro-12H-dibenzo[d,g][1,3,2]dioxaphosphocin | 41 mmol, 20 g | C(C)(C)(C)C1=CC2=C(OP(OC3=C(C2)C=C(C=C3C(C)(C)C)C(C)(C)C)Cl)C(=C1)C(C)(C)C | C29H42ClO2P
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 1,1'-Bis[2,4,8,10-tetrakis(tert-butyl)-12H-dibenzo[d,g][1,3,2]dioxaphosphocin-6-yl]ferrocene | 12 g, 58.5% yield | C(C)(C)(C)C1=CC2=C(OP(OC3=C(C2)C=C(C=C3C(C)(C)C)C(C)(C)C)[C-]3C=CC=C3)C(=C1)C(C)(C)C.[C-]1(C=CC=C1)P1OC3=C(CC2=C(O1)C(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C=C3C(C)(C)C)C(C)(C)C.[Fe+2] | InChI=1S/2C34H46O2P.Fe/c2*1-31(2,3)24-18-22-17-23-19-25(32(4,5)6)21-28(34(10,11)12)30(23)36-37(26-15-13-14-16-26)35-29(22)27(20-24)33(7,8)9;/h2*13-16,18-21H,17H2,1-12H3;/q2*-1;+2
